US07582640B2
Synthesis of 4-bromo-5-ethyl-6-[4-(aminomethyl-2-pyridinyl)-1-piperidinyl]-pyrimidine
1.8 ml of diisopropylethylamine is added to a mixture of 657 mg (2.47 mmoles) of 4,6-dibromo-5-ethyl-pyrimidine and 450 mg (2.35 mmoles) of 2-(4-methylpiperidinyl)aminopyridine in 55 ml of N,N-dimethylacetamide. This mixture is heated at 110° C. for 4 hours. Then the solvent is eliminated under reduced pressure (0.2 kPa) and the residue is taken up in a mixture of ethyl acetate, water and a saturated solution of sodium bicarbonate. The organic phase is decanted, dried over magnesium sulphate then condensed under reduced pressure (2 kPa). The brown oil obtained is chromatographed on alumina eluting with the following gradient: heptane-ethyl acetate 80-20 to 70-30. 747 mg (Yield=84%) of expected product is obtained in the form of a beige solid.

reactant | diisopropylethylamine | 1.8 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,6-dibromo-5-ethyl-pyrimidine | 2.47 mmoles, 657 mg | BrC1=NC=NC(=C1CC)Br | C6H6Br2N2
reactant | 2-(4-methylpiperidinyl)aminopyridine | 2.35 mmoles, 450 mg | CC1CCN(CC1)NC1=NC=CC=C1 | C11H17N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | N,N-dimethylacetamide | 55 ml | CN(C(C)=O)C | C4H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-bromo-5-ethyl-6-[4-(aminomethyl-2-pyridinyl)-1-piperidinyl]-pyrimidine | 747 mg, Yield=84% | BrC1=NC=NC(=C1CC)N1CCC(CC1)C1=NC=CC=C1CN | C17H22BrN5
